US07750163B2
1.5 1-Ethyl-2,3-dimethyl-3-(4-sulphobutyl)-3H-indolium-5-sulphonate salt
Disodium 2,3-dimethyl-3-(4-sulphonatobutyl)-3H-indole-5-sulphonate (1 g), ethyl-p-toluene sulphonate (0.95 ml; 5.56 mmol) and tetramethylenesulphone (10 ml) were heated together at 140° C. for 12 hrs. TLC (silica; 2:1 MeOH; EtOAc) showed the formation of a new product spot (rf=0.8), which turned magenta on standing. The product was precipitated into ethyl acetate and then filtered off and dried in vacuo to give the crude product as a dark purple solid; 1.5 g. The product was purified in multiple shots by HPLC (Vydac protein & peptide C18 (250 mm×25 mm); flow rate 10 ml/min; gradient of 0 to 25% B over 30 mins; eluant A=0.1% TFA in water and eluant B=0.1% TFA in acetonitrile; detection at 220 nm). The fractions containing the desired product were pooled and the solvent removed under reduced pressure. The product was obtained as a pale pink oil (400 mg).

reactant | Disodium 2,3-dimethyl-3-(4-sulphonatobutyl)-3H-indole-5-sulphonate | 1 g | CC1=NC2=CC=C(C=C2C1(CCCCS(=O)(=O)[O-])C)S(=O)(=O)[O-].[Na+].[Na+]
reactant | ethyl-p-toluene sulphonate | 5.56 mmol, 0.95 ml | C(C)OS(=O)(=O)C1=CC=C(C=C1)C | C9H12O3S
reactant | tetramethylenesulphone | 10 ml | C1CCCS1(=O)=O | C4H8O2S
reactant | MeOH | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-Ethyl-2,3-dimethyl-3-(4-sulphobutyl)-3H-indolium-5-sulphonate | 400 mg | C(C)[N+]1=C(C(C2=CC(=CC=C12)S(=O)(=O)[O-])(CCCCS(=O)(=O)O)C)C | C16H23NO6S2
